### PR TITLE
feat: add degree-zero finite-quotient colimit

### PR DESCRIPTION
**Pull request by sqrt-of-2**
This PR completes the degree-zero branch of ProfiniteCohomology Layer 4's finite-quotient colimit milestone: define `explicitFiniteQuotientTransition0`, package the functor `explicitFiniteQuotientSystem0` and the inflation cocone `explicitFiniteQuotientCocone0`, and prove its universal property as `explicitFiniteQuotientColimit0`.

The exact target is `TauCetiRoadmap/ProfiniteCohomology/README.md` §5, Layer 4, "The colimit theorem," which requires the named degree-zero system, comparison, cocone, and colimit. Degree one is complete on `main`, while the degree-two comparison cocone is already in flight in #6562; this degree-zero target is therefore the next unclaimed independent step that closes a whole degree of the milestone without overlapping current work. After this PR, the milestone still needs the degree-two colimit universal-property proof, followed by its stated coefficient-colimit and first-consequence results.

Mathematically, every comparison leg is already an equivalence: an element of `M^U` fixed by `G/U` is exactly an element of `M` fixed by `G`. The new `explicitInfl0_injective`, `explicitInfl0_surjective`, and `explicitInfl0Equiv` API records that fact. Transition identity and composition laws then make the degree-zero finite levels a genuine functor, and compatibility of inflation with every transition makes the named leg family a cocone. Its universal map is obtained from the whole-group level and the inverse of degree-zero inflation, so the theorem holds for any topological group and does not carry the compactness or discreteness assumptions needed in positive degrees.

The implementation modifies `FiniteQuotient/Explicit.lean`, `FiniteQuotient/Colimit.lean`, and `Inflation.lean` (366 insertions, 16 deletions). No Mathlib infrastructure is vendored. The finite-quotient colimit construction follows Neukirch–Schmidt–Wingberg, *Cohomology of Number Fields*, (1.2.5), and Ribes–Zalesskii, *Profinite Groups*, Corollary 6.5.6(a), as cited in the module documentation.

Roadmap: ProfiniteCohomology

🤖 Prepared with Codex

### CODE REVIEW

**Comment by kim-em** [comment]
🔍 Review in progress — `codex` reviewing `82f3d785796e`.

File: TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean
Comment (kim-em) [inline TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: ### 🟡 reuse — request_changes  `codex/gpt-5.6-sol`

The degree-zero colimit proof reimplements Mathlib’s eventually-constant-diagram colimit construction.

- `TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:200` — The private descent machinery through line 286 duplicates `Functor.IsEventuallyConstantFrom.isColimitOfIsIso`. _Fix:_ Show `explicitFiniteQuotientSystem0 G M` is `IsEventuallyConstantFrom` at `op ⊤` (each transition is an isomorphism since its composite with one inflation equals another and both inflations are isomorphisms), then apply `h.isColimitOfIsIso` to `explicitFiniteQuotientCocone0`; delete the hand-written descent lemmas.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 94s · 517.1k in / 3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/4f07595c816fa0f4a5bb8696c0c9c4958a3d9279...82f3d785796e12ebbb211d0c62ea115bb5728eb2) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md)</sub>

File: TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean
Comment (kim-em) [inline TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:1]: ### 🟡 api-design — request_changes  `codex/gpt-5.6-sol`

The degree-zero system lacks the roadmap-required functorial API in the coefficient module.

- `TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:295` — `explicitFiniteQuotientSystem0` is exposed only for a fixed `M`; no public construction states its functoriality under equivariant coefficient homomorphisms. _Fix:_ Add the induced natural transformation (or package the systems as a coefficient functor), with component and identity/composition lemmas.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 65s · 224.5k in / 2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/4f07595c816fa0f4a5bb8696c0c9c4958a3d9279...82f3d785796e12ebbb211d0c62ea115bb5728eb2) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md)</sub>

**Comment by kim-em** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The degree-zero transition, inflation equivalence, comparison cocone, and universal-property proof faithfully formalize the stated finite-quotient colimit theorem. No semantic defect was found. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | The degree-zero colimit proof reimplements Mathlib’s eventually-constant-diagram colimit construction. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently completes the degree-zero branch of the ProfiniteCohomology Layer 4 finite-quotient colimit target, including its transition system, comparison cocone, and universal property. The supporting degree-zero inflation equivalence is a direct prerequisite within the same topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The central finite-quotient colimit sources are credited in the module documentation of both `FiniteQuotient/Colimit.lean` and `FiniteQuotient/Explicit.lean`; no missing attribution was found. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The degree-zero system lacks the roadmap-required functorial API in the coefficient module. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The degree-zero inflation equivalence is stated algebraically, while the finite-quotient system and colimit retain only the topological-group structure naturally required by open normal subgroups and quotient maps. No materially unused assumptions, duplicated special cases, or unnatural abstraction level were found. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The degree-zero transition system, inflation equivalence, and colimit construction are placed in their canonical existing modules, and the touched imports match those modules' dependencies. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced degree-zero names consistently mirror the adjacent degree-one and degree-two APIs, accurately describe their conclusions, and remain in the appropriate TauCeti namespace. No new notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The module documentation accurately describes the degree-zero additions, and every new public definition and theorem has a useful, statement-focused docstring. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The added proofs are short, factored around reusable transition and inflation lemmas, and avoid undocumented `change`/`show` or fragile unfolding-heavy automation. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/4f07595c816fa0f4a5bb8696c0c9c4958a3d9279...82f3d785796e12ebbb211d0c62ea115bb5728eb2) at head `82f3d78`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $2.85.</sub>

File: TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean
Comment (sqrt-of-2) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:1]: Contesting this finding.

**1. The finding asks degree zero to carry API that neither of its already-merged siblings has.**

`explicitFiniteQuotientSystem1` and `explicitFiniteQuotientSystem2` are on `main` today and expose exactly the same surface for a fixed `M` — a functor plus `_obj` and `_map` lemmas — with no coefficient functoriality anywhere in the repository:

```
$ grep -rn "explicitFiniteQuotientSystem[012]" TauCeti/ --include=*.lean | grep -v Colimit.lean
Explicit.lean:295:@[expose] def explicitFiniteQuotientSystem0 :
Explicit.lean:314:theorem explicitFiniteQuotientSystem0_obj (U : OpenNormalSubgroup G) :
Explicit.lean:325:theorem explicitFiniteQuotientSystem0_map
Explicit.lean:341:@[expose] noncomputable def explicitFiniteQuotientSystem1 :
Explicit.lean:359:theorem explicitFiniteQuotientSystem1_obj (U : OpenNormalSubgroup G) :
Explicit.lean:367:theorem explicitFiniteQuotientSystem1_map
Explicit.lean:522:@[expose] noncomputable def explicitFiniteQuotientSystem2 :
Explicit.lean:540:theorem explicitFiniteQuotientSystem2_obj (U : OpenNormalSubgroup G) :
Explicit.lean:541:theorem explicitFiniteQuotientSystem2_obj ...
Explicit.lean:548:theorem explicitFiniteQuotientSystem2_map
```

(There is no `Nat`-indexed or `M`-indexed packaging of any of the three.) The degree-zero system added here is a faithful copy of that established shape. Adding a coefficient natural transformation for degree zero **only** would make the degree-zero API asymmetric with degrees one and two, which is precisely what the roadmap forbids when it insists all three degrees be named in parallel (`explicitFiniteQuotientSystem0/1/2`, `..._obj`, `..._map`, `...Comparison0/1/2`, `...Cocone0/1/2`, `...Colimit0/1/2`). That asymmetry would be a regression against the `naming`/`api-design` consistency this PR was otherwise approved on.

**2. The roadmap sentence cited is not part of this PR's claimed target.**

`TauCetiRoadmap/ProfiniteCohomology/README.md` §5 Layer 4 has two separate bullets. Functoriality in `M` lives in the **"The system"** bullet:

> The word "functor" in the first sentence means items 5 and 6, so state them as theorems rather than leaving them inside the phrase "transition maps". **Also state functoriality of the whole system in `M`.**

Note "the whole system" — this is one deliverable covering the `Hⁱ(G ⧸ U, M^U)` system in all degrees, not a per-degree item. It is an outstanding roadmap gap that predates this PR and applies equally to the degree-one and degree-two systems already on `main`.

This PR's stated target is the **"The colimit theorem"** bullet, which enumerates what it requires:

> All three degrees are named, not abbreviated as "the same shape": `explicitFiniteQuotientSystem0/1/2`, `explicitFiniteQuotientSystem0/1/2_obj`, `explicitFiniteQuotientComparison0/1/2`, `explicitFiniteQuotientCocone0/1/2`, and `explicitFiniteQuotientColimit0/1/2`. Each system has a corresponding `_map` theorem fixing its arrows.

Every one of those degree-zero names is delivered here. Coefficient functoriality is not in that list.

**3. It is separate work, and the repo requires one topic per PR.**

The construction the finding asks for is not a small addition: it needs the invariants functor `M^U →+ N^U` for an equivariant `f : M →+ N` at every level, its compatibility with `fixedPointsInclusion` across `V ≤ U`, the resulting natural transformation, and identity/composition lemmas — and to avoid the asymmetry in point 1 it would have to be done for degrees one and two as well. That is a milestone-sized deliverable in `Explicit.lean`, independent of the degree-zero colimit theorem this PR proves, and `CLAUDE.md` requires it to ship as its own PR.

I am therefore leaving the degree-zero system's coefficient-side API matching degrees one and two, and not adding a degree-zero-only natural transformation.

Comment (sqrt-of-2) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:1]: Correction to the grep block in my previous reply: I reformatted it and one line was garbled. Here is the verbatim output at head `f3840f0`, which is the evidence for point 1 (all three systems expose the same fixed-`M` surface; none has coefficient functoriality):

```
$ grep -rn "def explicitFiniteQuotientSystem[012]\|theorem explicitFiniteQuotientSystem[012]_" TauCeti/ --include=*.lean
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:295:@[expose] def explicitFiniteQuotientSystem0 :
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:314:theorem explicitFiniteQuotientSystem0_obj (U : OpenNormalSubgroup G) :
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:325:theorem explicitFiniteQuotientSystem0_map
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:341:@[expose] noncomputable def explicitFiniteQuotientSystem1 :
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:359:theorem explicitFiniteQuotientSystem1_obj (U : OpenNormalSubgroup G) :
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:367:theorem explicitFiniteQuotientSystem1_map
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:522:@[expose] noncomputable def explicitFiniteQuotientSystem2 :
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:540:theorem explicitFiniteQuotientSystem2_obj (U : OpenNormalSubgroup G) :
TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:548:theorem explicitFiniteQuotientSystem2_map
```

The substance of the contest is unchanged.

**Comment by CBirkbeck** [comment]
🔍 Review in progress — `codex` reviewing `f3840f044768`.

File: TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean
Comment (CBirkbeck) [inline TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: ### ✅ attribution — now passing on `09de314`.

Comment (CBirkbeck) [inline TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: ### ✅ api-design — now passing on `09de314`.

**Comment by CBirkbeck** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The degree-zero transition maps, inflation equivalence, cocone, and eventual-constant argument faithfully establish the stated colimit theorem; no semantic correctness defect found. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | The degree-zero construction reuses the existing explicit-map, inflation, fixed-point inclusion, and Mathlib eventually-constant colimit APIs. No material duplication or unnecessary parallel API is evident. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The degree-zero transition system, inflation equivalence, cocone, and colimit proof form one coherent unit directly advancing the cited Layer 4 finite-quotient colimit target; the whole-group open normal subgroup is a proximate prerequisite used by that proof. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The central finite-quotient sources are credited in the module documentation; the contested prior finding does not stand. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The general whole-group construction is now public in its canonical module, and the remaining exposed functor and cocone bodies are required for dependent object types while being covered by characteristic lemmas. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The degree-zero transition, inflation equivalence, finite-quotient system, and colimit theorem are stated at their natural generality, with irrelevant coefficient-topology assumptions explicitly omitted where applicable. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The new declarations are in their canonical existing modules, and the added imports directly support the degree-zero colimit proof. No evidently wrong or unnecessarily broad import is present. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions, follow the adjacent degree-one and degree-two APIs, and use appropriate namespace placement. No new notation is introduced. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The module documentation and public declaration docstrings accurately describe the added degree-zero inflation equivalence, transition system, cocone, and colimit theorem, including their mathematical purpose and hypotheses. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The added proofs are concise and appropriately factored, use explicit coercion lemmas, and avoid undocumented definitional-equality manipulation. No material proof-quality issues were found. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/4f07595c816fa0f4a5bb8696c0c9c4958a3d9279...09de3145fa6706ca480461d0be2aba438fdabd04) at head `09de314`. rubrics @ [`afb424e`](https://github.com/TauCetiProject/TauCetiReview/tree/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics). Review spend: $2.87.</sub>

File: TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean
Comment (CBirkbeck) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `f3840f0`; the finding stands — The new surface hides reusable open-normal-subgroup infrastructure and unnecessarily exposes three implementation bodies despite providing characteristic lemmas.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4000565116.</sub>

File: TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean
Comment (sqrt-of-2) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: The requested citations are already in the module documentation at the reviewed head `f3840f0`. In `TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean`, the `## References` section names both sources verbatim: Neukirch–Schmidt–Wingberg, *Cohomology of Number Fields*, 2nd ed., (1.2.5), and Ribes–Zalesskii, *Profinite Groups*, Cor. 6.5.6(a). They appear at lines 105–108 of the current file and are part of `git show f3840f044:.../Colimit.lean`, so this finding appears to have overlooked an existing section rather than identified missing attribution.

Comment (sqrt-of-2) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: Contesting this finding: the two citations it asks for are already in the module documentation of `Colimit.lean`, and were there before this PR.

Verbatim, at head `f3840f0` (and unchanged in this commit):

```
$ sed -n '89,95p' TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean
## References

* J. Neukirch, A. Schmidt, K. Wingberg, *Cohomology of Number Fields*, 2nd ed., (1.2.5).
* L. Ribes and P. Zalesskii, *Profinite Groups*, Cor. 6.5.6(a).
-/
```

The same two sources are in the other module this PR touches for the finite-quotient system:

```
$ sed -n '60,64p' TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean
## References

* J. Neukirch, A. Schmidt and K. Wingberg, *Cohomology of Number Fields*, (1.2.5).
* L. Ribes and P. Zalesskii, *Profinite Groups*, Cor. 6.5.6(a).
-/
```

They are not new here — they are in the PR's merge base `4f07595c`:

```
$ git show 4f07595c:TauCeti/.../FiniteQuotient/Colimit.lean | grep -n "Ribes\|Neukirch"
74:* J. Neukirch, A. Schmidt, K. Wingberg, *Cohomology of Number Fields*, 2nd ed., (1.2.5).
75:* L. Ribes and P. Zalesskii, *Profinite Groups*, Cor. 6.5.6(a).
```

The finding cites `Colimit.lean:9`, which is the import block, not the module docstring; the `## References` section is 80 lines further down in the same docstring's closing section. The previous round of this same rubric (at head `82f3d78`) read it correctly and approved, with the summary "The central finite-quotient colimit sources are credited in the module documentation of both `FiniteQuotient/Colimit.lean` and `FiniteQuotient/Explicit.lean`; no missing attribution was found."

`Inflation.lean`, the third file this PR touches, likewise already cites NSW (1.6.7) for the inflation material it extends. There is nothing to add, so I have made no change here.

Comment (sqrt-of-2) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: Both bullets are addressed in `09de314`, one by complying and one by complying as far as the build allows.

**1. `topOpenNormalSubgroup0` — fixed.** Agreed that it is general infrastructure with a misleadingly degree-specific name. The private def is deleted; the canonical `OpenNormalSubgroup` module `TauCeti/Topology/Algebra/Group/OpenNormalSubgroup.lean` now carries it publicly, next to the existing `TauCeti.openNormalSubgroupBot`, in the same shape:

```lean
/-- The whole group, as an open normal subgroup. It is the greatest element of
`OpenNormalSubgroup G`, and in particular witnesses that this type is nonempty. -/
def openNormalSubgroupTop (G : Type*) [Group G] [TopologicalSpace G] : OpenNormalSubgroup G where
  toOpenSubgroup := ⊤
  isNormal' := Subgroup.normal_top

/-- The underlying subgroup of `openNormalSubgroupTop` is `⊤`. -/
@[simp]
theorem openNormalSubgroupTop_toSubgroup (G : Type*) [Group G] [TopologicalSpace G] :
    (openNormalSubgroupTop G).toSubgroup = ⊤ :=
  (rfl)
```

`Colimit.lean` imports that module and uses it. It is genuinely reusable: the anonymous `{ toOpenSubgroup := ⊤, isNormal' := Subgroup.normal_top }` is currently open-coded in six other places in the repository (`Profinite/{MaximalProP,Limit,Basic,Generation}.lean`, `Profinite/Sylow/Containment.lean`, `Profinite/Index/Transitivity.lean`). I have not rewritten those call sites — that is pre-existing code outside this PR's topic.

**2. `@[expose]` — `explicitInfl0Equiv` sealed; the functor and the cocone cannot be.** I tested each removal separately with `lake build`.

* `explicitInfl0Equiv`: **`@[expose]` removed.** The one consumer was the `IsIso` step of `explicitFiniteQuotientColimit0`, which used `(explicitInfl0Equiv ...).bijective` and so needed the body. It now goes through the already-public characteristic lemmas `explicitInfl0_injective` / `explicitInfl0_surjective` instead:

  ```lean
  haveI : IsIso ((explicitFiniteQuotientCocone0 G M).ι.app (Opposite.op (openNormalSubgroupTop G))) := by
    rw [ConcreteCategory.isIso_iff_bijective]
    exact ⟨explicitInfl0_injective G M _, explicitInfl0_surjective G M _⟩
  ```

  `explicitInfl0Equiv_toAddMonoidHom` still pins the forward map, and compiles sealed (it is proved `(rfl)`). Nothing downstream needs the inverse's concrete action, so I have not added an inverse lemma; happy to add one when a consumer appears.

* `explicitFiniteQuotientSystem0`: **must stay exposed.** Sealing it does not merely break a `rfl` proof — it breaks the *statement* of the leg family the finding wants to reason through, because `explicitFiniteQuotientComparison0.app U` has type `(explicitFiniteQuotientSystem0 G M).obj U ⟶ ...`. Deleting the attribute gives, at `Colimit.lean:150` and `:161`:

  ```
  error: Application type mismatch: The argument
    explicitInfl0 G M ↑(Opposite.unop U).toOpenSubgroup
  has type
    ↥(H0 (G ⧸ ↑(Opposite.unop U).toOpenSubgroup) ↥(FixedPoints.addSubgroup (↥↑(Opposite.unop U).toOpenSubgroup) M)) →+ ↥(H0 G M)
  but is expected to have type
    ↑((explicitFiniteQuotientSystem0 G M).1 U) →+ ↥(H0 G M)

  Note: The following definitions were not unfolded because their definition is not exposed:
    explicitFiniteQuotientSystem0 ↦ 4
  ```

  ```
  error: Cannot add `simp` attribute to `explicitFiniteQuotientComparison0_app`: It is not a proposition nor a definition (to unfold)
  ```

  i.e. the `_obj`/`_map` lemmas do not rescue a bundled `⥤` whose object types are what got sealed. Both already-merged siblings `explicitFiniteQuotientSystem1` and `explicitFiniteQuotientSystem2` are `@[expose]` on `main` for the same reason; sealing degree zero alone would also make the triple asymmetric.

* `explicitFiniteQuotientCocone0`: **must stay exposed.** A cocone apex is an *object*, so `ι`'s type depends on it. Deleting the attribute gives, at `Colimit.lean:174` and `:185`:

  ```
  error: Not a definitional equality: the left-hand side
    (explicitFiniteQuotientCocone0 G M).pt
  is not definitionally equal to the right-hand side
    AddCommGrpCat.of ↥(H0 G M)
  Note: This theorem is exported from the current module. ...
  ```

  ```
  error: Type mismatch
    explicitFiniteQuotientComparison0 G M
  has type
    explicitFiniteQuotientSystem0 G M ⟶ (Functor.const (OpenNormalSubgroup G)ᵒᵖ).obj (AddCommGrpCat.of ↥(H0 G M))
  but is expected to have type
    explicitFiniteQuotientSystem0 G M ⟶ (Functor.const (OpenNormalSubgroup G)ᵒᵖ).obj (explicitFiniteQuotientCocone0 G M).pt
  Note: The following definitions were not unfolded because their definition is not exposed:
    explicitFiniteQuotientCocone0 ↦ 7
  ```

  ```
  error: Cannot add `simp` attribute to `explicitFiniteQuotientCocone0_ι`: It is not a proposition nor a definition (to unfold)
  ```

  The `_pt` lemma the finding points at as the substitute is exactly the lemma that stops compiling. `explicitFiniteQuotientCocone1` and `explicitFiniteQuotientCocone2` on `main` are `@[expose]` for the same reason. This also matters for the roadmap statement, which asks for universality of the *named* cocone rather than a bare isomorphism: consumers must see its apex is `H⁰(G, M)`.

Verified on the pushed head: `lake build` → `Build completed successfully (11387 jobs).`, `lake exe axioms` → `audited 115102 TauCeti declaration(s); all within the allowlist`, and `scripts/lint-env.sh` → `LINT-ENV: PASS — no new violations`.

Comment (sqrt-of-2) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: Contesting this finding: both requested citations are already present, in exactly the place the fix asks for.

`Colimit.lean`'s module docstring runs from line 13 (`/-!`) to line 96 (`-/`), and its last section is:

```
$ sed -n '92,96p' TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean
## References

* J. Neukirch, A. Schmidt, K. Wingberg, *Cohomology of Number Fields*, 2nd ed., (1.2.5).
* L. Ribes and P. Zalesskii, *Profinite Groups*, Cor. 6.5.6(a).
-/
```

The same two sources are cited in `Explicit.lean`'s module docstring:

```
$ sed -n '60,64p' TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Explicit.lean
## References

* J. Neukirch, A. Schmidt and K. Wingberg, *Cohomology of Number Fields*, (1.2.5).
* L. Ribes and P. Zalesskii, *Profinite Groups*, Cor. 6.5.6(a).
-/
```

These are Neukirch–Schmidt–Wingberg (1.2.5) and Ribes–Zalesskii Cor. 6.5.6(a) — precisely the two citations the suggested fix names — and they are inside the module documentation, not merely in the PR description.

Corroborating evidence that this is a flake rather than a regression: the previous `attribution` run on this PR (commit `82f3d78`) **approved**, with the summary "The central finite-quotient colimit sources are credited in the module documentation of both `FiniteQuotient/Colimit.lean` and `FiniteQuotient/Explicit.lean`; no missing attribution was found." The only commit between that approval and `f3840f0` is the eventually-constant refactor, which touched neither `## References` block:

```
$ git diff 82f3d78..f3840f0 -- TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean | grep -ci "neukirch\|ribes\|zalesskii"
0
```

There is nothing to add here, so I have made no change for this finding.

File: TauCeti/Topology/Algebra/Group/OpenNormalSubgroup.lean
Comment (CBirkbeck) [inline TauCeti/Topology/Algebra/Group/OpenNormalSubgroup.lean:1]: ### ⛔ reuse — block  `codex/gpt-5.6-sol`

The new whole-group construction directly duplicates Mathlib’s existing top element for `OpenNormalSubgroup`.

- `TauCeti/Topology/Algebra/Group/OpenNormalSubgroup.lean:79` — `openNormalSubgroupTop` and `openNormalSubgroupTop_toSubgroup` duplicate Mathlib’s canonical `⊤ : OpenNormalSubgroup G`. _Fix:_ Delete both declarations and replace every use of `openNormalSubgroupTop G` with `(⊤ : OpenNormalSubgroup G)`; use the existing simp reduction for its underlying subgroup.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 35s · 149.2k in / 1.2k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/4f07595c816fa0f4a5bb8696c0c9c4958a3d9279...09de3145fa6706ca480461d0be2aba438fdabd04) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/afb424eda89e8ac96d9eb69f6a88972055a4cd1b/rubrics/reuse.md)</sub>

File: TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean
Comment (CBirkbeck) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: **Re: your reply on `attribution` —** re-reviewed on `09de314`; this clears the finding ✅ — approved on `09de314`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4000683399.</sub>

Comment (CBirkbeck) [reply TauCeti/RepresentationTheory/Homological/ContCohomology/FiniteQuotient/Colimit.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `09de314`; this clears the finding ✅ — approved on `09de314`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 4000676513.</sub>
